US07205292B2
N-[(3R)-1-(Cyclopropylmethyl)-2-oxoazepan-3-yl]-4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carboxamide
Trifluoroacetic acid (5 mL) was added to a solution of tert-butyl (3R)-1-(cyclopropylmethyl)-2-oxoazepan-3-ylcarbamate (257 mg, 0.91 mmol) in dichloromethane (10 mL). After 1 h, the mixture was concentrated and azeotroped with dichloromethane (3×) to give the crude amine. Diisopropylethylamine (0.070 mL, 0.40 mmol) was added to a solution of the crude amine (39 mg, 0.13 mmol) and 4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carbonyl chloride (39 mg, 0.13 mmol) in 1,2-dichloroethane (2 mL) and the mixture was heated to reflux. After 1 h, the reaction was allowed to cool to ambient temperature. Purification by silica gel chromatography (1% methanol/dichloromethane→5% methanol/dichloromethane) gave the title compound (32 mg). MS 440 (M+1).

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl (3R)-1-(cyclopropylmethyl)-2-oxoazepan-3-ylcarbamate | 0.91 mmol, 257 mg | C1(CC1)CN1C([C@@H](CCCC1)NC(OC(C)(C)C)=O)=O | C15H26N2O3
reactant | Diisopropylethylamine | 0.40 mmol, 0.070 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carbonyl chloride | 0.13 mmol, 39 mg | O=C1NC2=CC=CC=C2CN1C1CCN(CC1)C(=O)Cl | C14H16ClN3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
product | N-[(3R)-1-(Cyclopropylmethyl)-2-oxoazepan-3-yl]-4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carboxamide | 32 mg | C1(CC1)CN1C([C@@H](CCCC1)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C24H33N5O3
